US08026257B2
6-Cyclopropyl-1-(cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazole.
Suzuki coupling reaction of 6-Bromo-1-(cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazole (12 mg, 0.026 mmol) with cyclopropylboronic acid (3 equiv.) following the procedure described for the synthesis of tert-butyl 4-(((5-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate, gave 13 mg of the title compound (92% yield). LC/MS (HPLC method 8): tR=0.8 min, 430(MH)+.

reactant | 6-Bromo-1-(cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazole | 0.026 mmol, 12 mg | BrC=1C=CC2=C(N(C(=N2)COCC2(CCN(CC2)C)C2=CC=CC=C2)CC2CC2)C1 | C25H30BrN3O
reactant | cyclopropylboronic acid | 3 equiv. | C1(CC1)B(O)O | C3H7BO2
reactant | tert-butyl 4-(((5-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1=CC2=C(N(C(=N2)COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)CC2CC2)C=C1 | C36H40N4O3
product | 6-Cyclopropyl-1-(cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazole | 13 mg, 92% yield | C1(CC1)C=1C=CC2=C(N(C(=N2)COCC2(CCN(CC2)C)C2=CC=CC=C2)CC2CC2)C1 | C28H35N3O
